US06683090B1
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)[E-3-(2-formamidophenyl)propenamide]
Formic acid (98%, 2.9 mL) and acetic anhydride (1.0 mL) were combined under an inert atmosphere while cooling with a cold water bath. (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(E-3-(2-aminophenyl)propenamide) (0.16 g, 0.00059 moles) was added and the reaction was stirred for three days at room temperature. The solution was poured into saturated sodium carbonate and more solid carbonate was added until the solution was basic. The aqueous layer was extracted four times with chloroform. The organic extracts were combined, dried (MgSO4), and concentrated in vacuo. The product was transferred using chloroform and this was stripped and chased with two portions of ether. The white solid was dried at room temperature with high vacuum, giving 64 mg; MS (ES+) 300 (MH+).

reactant | acetic anhydride | 1.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(E-3-(2-aminophenyl)propenamide) | 0.00059 moles, 0.16 g | N12C[C@@H](C(CC1)CC2)NC(\C=C\C2=C(C=CC=C2)N)=O | C16H21N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbonate | C([O-])([O-])=O
solvent | Formic acid | 2.9 mL | C(=O)O | CH2O2
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)[E-3-(2-formamidophenyl)propenamide] | N12C[C@@H](C(CC1)CC2)NC(\C=C\C2=C(C=CC=C2)NC=O)=O | C17H21N3O2
